US08835428B2
(S)-2-(3-(4-(3-(2-fluorophenyl)ureido)phenyl)-N-methylisoxazole-5-carboxamido)-3-methylbutanoic acid
(S)-methyl 2-(3-(4-(3-(2-fluorophenyl)ureido)phenyl)-N-methylisoxazole-5-carboxamido)-3-methylbutanoate (80 mg, 0.17 mmol) was dissolved in THF and water in 2:1 ratio. Lithium hydroxide monohydrate (14 mg, 0.341 mmol) was added and the reaction mixture was stirred at room temperature for 6 hours. The reaction mixture was acidified with dilute HCl and extracted with EtOAc. Organic layer was separated, dried over Na2SO4 and concentrated under reduced pressure to yield 30 mg (39%) of the title compound. MS: ES (−): m/z 453 (M−1); ES (+): m/z 455(M+1); 1HNMR (DMSO-d6, 300 MHz) δ: 9.427(s, 1H), 8.713 (d, 1H), 8.171 (m, 1H), 7.905-7.851 (d, 2H), 7.677-7.524 (m, 3H), 7.283 (m, 1H), 7.183 (t, 1H), 7.068 (m, 1H), 4.661-3.949 (d, 1H), 3.161-2.977 (s, 3H), 2.314 (m, 1H), 1.335-1.065 (d, 3H(×2)).

reactant | (S)-methyl 2-(3-(4-(3-(2-fluorophenyl)ureido)phenyl)-N-methylisoxazole-5-carboxamido)-3-methylbutanoate | 0.17 mmol, 80 mg | FC1=C(C=CC=C1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)N(C)[C@H](C(=O)OC)C(C)C)=O | C24H25FN4O5
reactant | water | O | H2O
reactant | Lithium hydroxide monohydrate | 0.341 mmol, 14 mg | O.[OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | (S)-2-(3-(4-(3-(2-fluorophenyl)ureido)phenyl)-N-methylisoxazole-5-carboxamido)-3-methylbutanoic acid | 30 mg, 39% | FC1=C(C=CC=C1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)N(C)[C@H](C(=O)O)C(C)C)=O | C23H23FN4O5
